US04181722
1-(2H-3-chromenyl)-3-(N-methyl-piperazino)-1-propanone hydrochloride
3-Acetyl-2H-chromene (0.5 mole) is dissolved in 250 ml ethanol, while warming. N-methyl-piperazine hydrochloride (0.4 mole) in ethanol (250 ml) and concentrated hydrochloric acid (1 ml) are added thereto. Trioxymethylene (3 moles) is added portionwise over 2 hours, and the resulting material is refluxed overnight. A pale yellow precipitate forms gradually. After cooling, the precipitate is filtered off, washed with ethanol and then with ether, after which it is dried in a desiccator at 90° C. and recrystallized from the minimum amount of water. M.p.=228° C.

reactant | 3-Acetyl-2H-chromene | 0.5 mole | C(C)(=O)C=1COC2=CC=CC=C2C1 | C11H10O2
reactant | N-methyl-piperazine hydrochloride | 0.4 mole | Cl.CN1CCNCC1
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 1-(2H-3-chromenyl)-3-(N-methyl-piperazino)-1-propanone hydrochloride | Cl.O1CC(=CC2=CC=CC=C12)C(CCN1CCN(CC1)C)=O | InChI=1S/C17H22N2O2.ClH/c1-18-8-10-19(11-9-18)7-6-16(20)15-12-14-4-2-3-5-17(14)21-13-15;/h2-5,12H,6-11,13H2,1H3;1H
